US05153187
(4R)-4-Hydroxy-2-pyrrolidone (4.5 g) is suspended in tetrahydrofuran (300 ml), and thereto is added triphenylphosphine (23.4 g). After stirring the mixture for 10 minutes, diethyl azodicarboxylate (14 ml) is added dropwise to the mixture below -10° C., and the mixture is stirred at the same temperature for 10 minutes. Thioacetic acid (6.3 ml) is added dropwise to the reaction mixture below -10° C., and the mixture is stirred at the same temperature for 2 hours, and the solvent is evaporated under reduced pressure. The residue is crystallized from diisopropyl ether, and the precipitate is removed by filtration. The filtrate is concentrated under reduced pressure, and the residue is purified by silica gel column chromatography (eluent, chloroform:ethanol=98:2) to give (4S)-4-acetylthio-2-pyrrolidone (3.8 g) as an oil.

reactant | (4R)-4-Hydroxy-2-pyrrolidone | 4.5 g | O[C@@H]1CC(NC1)=O | C4H7NO2
reactant | triphenylphosphine | 23.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 14 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | Thioacetic acid | 6.3 ml | C(C)(=S)O | C2H4OS
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | (4S)-4-acetylthio-2-pyrrolidone | 3.8 g | C(C)(=O)[C@H]1CC(NC1)=S | C6H9NOS
